Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-2.74750097001
[H:1][C:2][O:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][O:10][H:11].[H:9],4.17472721601
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],3.5079997778800003
[H:1][O:2][C:3][C:12]([H:13])([H:14])[H:15].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.3774861787700003
[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-8.09232059508
[O:1][O:2]/[C:3]([H:4])=[C:5](/[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]([H:4])=[C:5][H:6],6.72766719408
[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9][H:10])=[O:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12],-3.4565261528500004
[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]([H:3])[C:4][C:9]([H:10])([H:11])[O:12][H:13]>>[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.5865356120300005
[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:11]([H:12])([H:13])[H:14],4.990766044180001
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11].[H:3],4.599735476
[C:6]([H:7])([H:8])=[C:9]=[O:10].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[O:10],1.1126525319299998
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-1.76109797148
[H:11].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7](=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.76414054371
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][O:2],5.369448138790001
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]([H:11])[H:12].[H:9],1.7929806793
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],1.95369285663
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.79307274588
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])=[O:6]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.84097905375
[C:5]([H:6])#[C:7][H:8].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7][H:8],-1.53240708714
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10]>>[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])[H:5],3.4037390772400005
[C:1].[C:2]#[C:3][C:4]([H:5])[O:6][O:7][H:8]>>[C:1][C:2]#[C:3][C:4]([H:5])[O:6][O:7][H:8],-5.83313904995
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[H:7]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[H:7],-1.73136105254
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10].[O:11][H:12],6.469773353019999
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7],2.15206583187
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14],4.54256424329
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16].[H:1],4.90431620796
[H:1][O:2][C:3]([H:4])[C:6]#[C:7][O:8][C:9]([H:10])[H:11].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]([H:10])[H:11],-3.5614926222400003
[O:1]=[C:2]1[C:3][C:4]([O:5][H:6])[C:7]1([H:8])[H:9]>>[O:1]=[C:2][C:7]([C:4](=[C:3])[O:5][H:6])([H:8])[H:9],2.53339410911
